US07435837B2
To a suspension of (7-cyclopentyl-2,3-dihydro-1-benzofuran-2-yl)methylamine (2.4 g, 9.46 mmol) in tetrahydrofuran (100 mL) cooled to 0° C. was added diisopropylethylamine (2.14 g, 16.58 mmol) followed by benzyl chloroformate (2.08 g, 12.19 mmol) and the reaction mixture was allowed to stir for 15 min. The reaction mixture was quenched with water (100 mL). The aqueous layer was extracted with ethyl acetate (2×200 mL) and the combined organic extracts were washed with saturated aqueous sodium chloride (100 mL), dried (magnesium sulfate) and the solvent removed in vacuo. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:9) provided 2.52 g (76%) of (±)-benzyl(7-cyclopentyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate as a yellow oil. Rf=0.21 (silica, ethyl acetate:hexanes 2:8); Anal. calcd. for C22H25NO3 C, 75.19; H, 7.17; N, 3.99. Found C, 74.74; H, 7.02; N, 3.85. Chiral HPLC separation of (±)-benzyl(7-cyclopentyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate (Chiralcel OJ, ethanol:hexane 1:1) provided two fractions. Fraction 1 (Rt=9.678 min, Chiralcel OJ, ethanol:hexane 1:1); Fraction 2 (Rt=12.824 min, Chiralcel OJ, ethanol:hexane 1:1).

reactant | (7-cyclopentyl-2,3-dihydro-1-benzofuran-2-yl)methylamine | 9.46 mmol, 2.4 g | C1(CCCC1)C1=CC=CC=2CC(OC21)CN | C14H19NO
reactant | diisopropylethylamine | 16.58 mmol, 2.14 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 12.19 mmol, 2.08 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (±)-benzyl(7-cyclopentyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate | 2.52 g, 76% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=CC=C2C2CCCC2)=O | C22H25NO3
